US06348032B1
The mixture of 5-chlorosulfonyl-1-(2,4-dichlorobenzyl)-2-methylbenzimidazole and 6-chlorosulfonyl-1-(2,4-dichlorobenzyl)-2-methylbenzimidazole, which is obtained in Example 285, is immediately processed with a 25% aqueous ammonia (100 ml) for one hour at room temperature. Separation of solids through filtration produced a 1/1 mixture (2.68 g) of 5-aminosulfonyl-1-(2,4-dichlorobenzyl)-2-methylbenzimidazole and 6-aminosulfonyl-1-(2,4-dichlorobenzyl)-2-methylbenzimidazole. 1H-NMR (CD3OD, δ): 2.52 (3/2H, s), 2.54 (3/2H, s), 5.54 (2H, s), 6.55 (1H, d, J=6.9 Hz), 7.17 (1H, d, J=8.0 Hz), 7.52 (1H, s), 7.65-7.78 (2H, m), 7.82 (1/2H, s), 8.11 (1/2H, s).

reactant | 5-chlorosulfonyl-1-(2,4-dichlorobenzyl)-2-methylbenzimidazole | ClS(=O)(=O)C1=CC2=C(N(C(=N2)C)CC2=C(C=C(C=C2)Cl)Cl)C=C1 | C15H11Cl3N2O2S
reactant | 6-chlorosulfonyl-1-(2,4-dichlorobenzyl)-2-methylbenzimidazole | ClS(=O)(=O)C=1C=CC2=C(N(C(=N2)C)CC2=C(C=C(C=C2)Cl)Cl)C1 | C15H11Cl3N2O2S
solvent | ammonia | 100 ml | N | H3N
product | 5-aminosulfonyl-1-(2,4-dichlorobenzyl)-2-methylbenzimidazole | 2.68 g | NS(=O)(=O)C1=CC2=C(N(C(=N2)C)CC2=C(C=C(C=C2)Cl)Cl)C=C1 | C15H13Cl2N3O2S
